US04999378
p-Chloroaniline (8 g), methanesulfonic acid 2-benzyloxyethyl ester (12.29 g) and sodium hydrogen carbonate (hereinafter, reffered to as sodium bicarbonate) (8.97 g) were dissolved in dioxane (35 ml), suspended and the mixture was heated with stirring for 24 hours. After concentrated under reduced pressure, water and ethyl acetate were added to the mixture and the mixture was separated into layers. The organic layer was washed with water 2 times, and concentrated again under reduced pressure, and the resulting rsidue was subjected to column chromatography on silica gel, and eluted with chloroform/n-hexane [2:1 (v/v)] to give 4-chloro-N-(2-benzyloxyethyl)aniline (4.63 g).

reactant | p-Chloroaniline | 8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | methanesulfonic acid 2-benzyloxyethyl ester | 12.29 g | C(C1=CC=CC=C1)OCCOS(=O)(=O)C | C10H14O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-N-(2-benzyloxyethyl)aniline | 4.63 g | ClC1=CC=C(NCCOCC2=CC=CC=C2)C=C1 | C15H16ClNO
